US06794406B2
4-(3-Isopropyl-1H-indol-5-yloxy)-3,5-dichloro-benzaldehyde
Analogously to the procedure of Example V, 10.0 g (57.07 mmol) of 5-hydroxy-3-isopropylindole are dissolved in 300 ml of DMSO, 8.68 g (62.77 mmol) of potassium carbonate are added, the mixture is stirred for 10 min at room temperature and 11.95 g (57.07 mmol) of 4,5,6-trichlorobenzaldehyde are introduced in portions, and the mixture is additionally stirred for 2 hours at room temperature and 2 hours at 50° C. After quenching with ethyl acetate/ammonium chloride solution and silica gel chromatography by means of toluene, 12,01 g (85,4%) of the desired product are obtained.

reactant | 5-hydroxy-3-isopropylindole | 57.07 mmol, 10.0 g | OC=1C=C2C(=CNC2=CC1)C(C)C | C11H13NO
reactant | potassium carbonate | 62.77 mmol, 8.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5,6-trichlorobenzaldehyde | 57.07 mmol, 11.95 g | ClC1=CC=C(C=O)C(=C1Cl)Cl | C7H3Cl3O
solvent | DMSO | 300 ml | CS(=O)C | C2H6OS
product | 4-(3-Isopropyl-1H-indol-5-yloxy)-3,5-dichloro-benzaldehyde | C(C)(C)C1=CNC2=CC=C(C=C12)OC1=C(C=C(C=O)C=C1Cl)Cl | C18H15Cl2NO2
